US09371319B2
Preparation 81: 6-Bromo-1-(cyclopropylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
NaHMDS (173 mL, 0.173 mmol) was added to a solution of 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 40 mg, 0.144 mmol) in DMF (630 mL). The reaction mixture was stirred for 15 minutes at 60° C. before the addition of (bromomethyl)cyclopropane (21 mL, 0.217 mmol). The reaction was then stirred for 24 hours at 60° C. before being diluted with water and EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude was purified via Biotage silica gel column chromatography eluting with DCM/EtOAc (99/1 to 80/20) to afford a colourless oil as the title compound. (29 mg, 61%). 1H NMR (500 MHz, CDCl3) d 0.21-0.24 (m, 2H), 0.52-0.56 (m, 2H), 1.08-1.15 (m, 1H), 4.02 (s, 3H), 4.06 (d, J=6.3 Hz, 2H), 6.54 (d, J=0.9 Hz, 1H), 7.45 (t, J=0.9 Hz, 1H), 7.61 (d, J=0.8 Hz, 1H), 7.70 (d, J=0.8 Hz, 1H), 8.60 (d, J=0.9 Hz, 1H). LC (Method B)-MS (ESI, m/z) tR 2.64 min, 331 [(M+H+), 100%].

reactant | NaHMDS | 0.173 mmol, 173 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.144 mmol, 40 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | (bromomethyl)cyclopropane | 0.217 mmol, 21 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 630 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Bromo-1-(cyclopropylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | BrC1=CC2=C(C=N1)C=C(N2CC2CC2)C=2C=NN(C2)C | C15H15BrN4
